US06426345B1
A mixture of 4-(3-methoxycarbonylphenyl)-2-methyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (5.02 g), N-bromosuccinimide (4.0 g) and benzoyl peroxide (0.50 g) in chloroform (60 ml) was stirred under reflux for 2 hours. The mixture was concentrated and chromatographed on silica gel column (1% methanol in chloroform) to give 2-bromomethyl-4-(3-methoxycarbonylphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (4.75 g).

reactant | 4-(3-methoxycarbonylphenyl)-2-methyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 5.02 g | COC(=O)C=1C=C(C=CC1)N1C2=C(N=C(C1=O)C)C=CC=N2 | C16H13N3O3
reactant | N-bromosuccinimide | 4.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.50 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-bromomethyl-4-(3-methoxycarbonylphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 4.75 g | BrCC1=NC2=C(N(C1=O)C1=CC(=CC=C1)C(=O)OC)N=CC=C2 | C16H12BrN3O3
